US06787550B1
Description 14: 3-Benzyloxy-4-trimethylsilanylethynyl benzoic acid, benzyl ester
3-Benzyloxy-4-bromobenzoic acid, benzyl ester (33.00 g, 83.07 mmol) was placed in a three necked flask and the atmosphere was replaced, under vacuum, with argon using a Firestone valve. The solid was dissolved in THF (215 ml), with stirring, and then triethylamine (396 ml) was added. The mixture was cooled in an ice/water bath and the solution degassed five times as described above. Copper (I) iodide (127 mg, 0.66 mmol) and bis(triphenylphosphine)palladium (II) chloride (933 mg, 1.33 mmol) were quickly added and the solution degassed twice more. Trimethylsilylacetylene (17.6 ml, 124.6 mmol) was then added dropwise, by syringe, over ten minutes. The cooling bath was then removed and the solution allowed to slowly warm to ambient temperature. After 21 h TLC analysis (25% EtOAc/hexane) indicated that essentially all the starting material had been consumed. The solvents were removed by evaporation in vacuo and ethyl acetate (500 ml) and dilute brine (300 ml) were added. The organic fraction was separated and the aqueous phase was back extracted with ethyl acetate (1×250 ml and 1×100 ml). The total organic fraction was dried over sodium sulphate, filtered and evaporated to give a crude brown solid (36.2 g). The solid was dissolved in hot ethyl acetate (80 ml) where upon the title compound crystallised. This solid was removed by filtration, washed with ethyl acetate and dried in a vacuum oven at 40° C. to give pure title compound (13.75 g, yield 39%), mp=110.5-111.5° C.

reactant | 3-Benzyloxy-4-bromobenzoic acid, benzyl ester | 83.07 mmol, 33.00 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1Br | C21H17BrO3
reactant | triethylamine | 396 ml | C(C)N(CC)CC | C6H15N
reactant | Trimethylsilylacetylene | 124.6 mmol, 17.6 ml | C[Si](C)(C)C#C | C5H10Si
solvent | THF | 215 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
catalyst | Copper (I) iodide | 0.66 mmol, 127 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium (II) chloride | 1.33 mmol, 933 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 3-Benzyloxy-4-trimethylsilanylethynyl benzoic acid, benzyl ester | C(C1=CC=CC=C1)OC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1C#C[Si](C)(C)C | C26H26O3Si
